US04296239
Preparation 11: 8-Chloro-1-methyl-6-(methylthio)-4H-s-triazol[4,3-a][1,4]benzodiazepine
An ice cold, stirred mixture of 8-chloro-4,5-dihydro-1-methyl-6H-s-triazolo[4,3-a][1,4]benzodiazepine-6-thione (VIIIa) (13.2 g., 0.05 mole) in methanol (75 ml.) was treated with 55 ml. of 0.945 N aqueous sodium hydroxide solution. The ice bath was removed and after 10 minutes methyl iodide (3.11 ml., 0.05 mole) was added to the solution. About 5 minutes after this addition the mixture solidified. It was kept at ambient temperature for one hour, mixed with ice water and stirred for 10 minutes. The solid was collected by filtration, washed with water and dried to give 12.0 g. of the title compound, IXa, melting point 244°-249°. The analytical sample was recrystallized from methylene chloride/ethyl acetate and had melting point 247.5°-249°.

reactant | 8-chloro-4,5-dihydro-1-methyl-6H-s-triazolo[4,3-a][1,4]benzodiazepine-6-thione | 0.05 mole, 13.2 g | ClC=1C=CC2=C(C(NCC=3N2C(=NN3)C)=S)C1 | C11H9ClN4S
reactant | sodium hydroxide | 0.945 N | [OH-].[Na+]
reactant | methyl iodide | 0.05 mole, 3.11 ml | CI | CH3I
solvent | methanol | 75 ml | CO | CH4O
product | 8-Chloro-1-methyl-6-(methylthio)-4H-s-triazol[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)C)SC)C1 | C12H11ClN4S
